US04267184
1-Ethoxycarbonyl-4,5-bis(4-fluorophenyl)-2-(trifluoromethylthio)pyrrole
A mixture of 700 mg. (2 mmoles) of 4,5-bis(4-fluorophenyl)-2-(trifluoromethylthio)pyrrole and 330 mg. (3 mmoles) of potassium tert-butoxide in 20 ml. of toluene was heated to reflux with stirring and then cooled to room temperature under nitrogen. A solution of 700 mg. (6 mmoles) of ethyl chloroformate in 15 ml. of toluene was then added dropwise and the reaction mixture stirred at room temperature for several hours. The mixture was poured onto an aqueous sodium bicarbonate solution and the product extracted into methylene chloride. The combined organic layers were dried and concentrated to give 800 mg. of a viscous oil. The oil was purified by chromatography on Silic AR CC-7 (eluted by hexane and then by mixtures of hexane/toluene), followed by recrystallization from ethanol/water to give 400 mg. of product as colorless crystals, m.p. 54°-54.5° C.

reactant | 4,5-bis(4-fluorophenyl)-2-(trifluoromethylthio)pyrrole | 2 mmoles | FC1=CC=C(C=C1)C=1C=C(NC1C1=CC=C(C=C1)F)SC(F)(F)F | C17H10F5NS
reactant | potassium tert-butoxide | 3 mmoles | CC(C)([O-])C.[K+]
reactant | ethyl chloroformate | 6 mmoles | ClC(=O)OCC | C3H5ClO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-Ethoxycarbonyl-4,5-bis(4-fluorophenyl)-2-(trifluoromethylthio)pyrrole | C(C)OC(=O)N1C(=CC(=C1C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)SC(F)(F)F | C20H14F5NO2S
